US07220773B2
To a solution of lithium aluminum hydride (455 mg, 12 mmol) in tetrahydrofuren was dropped ethyl [3-(acetyloxy)phenoxy]acetate (1.19 g, 5 mmol) in tetrahydrofuran (20 ml) at room temperature, and the mixture was stirred for 2 hours at room temperature. The reaction was quenched by 10% hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 10% hydrochloric acid, an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution. The organic layer was dried over sodium sulfate. The solvent was removed under reduced pressure to give 3-(2-hydroxyethoxy)phenol (864 mg, quantitatively).

reactant | lithium aluminum hydride | 12 mmol, 455 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl [3-(acetyloxy)phenoxy]acetate | 5 mmol, 1.19 g | C(C)(=O)OC=1C=C(OCC(=O)OCC)C=CC1 | C12H14O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-hydroxyethoxy)phenol | OCCOC=1C=C(C=CC1)O | C8H10O3
